US05763453
Synthesis of 10-(((dimethylamino)ethyl)thio)-8-hydroxy-11H-indeno[1,2-b]quinolin-11-one (Compound 10)
A mixture of 400 mg (1.4 mmol) of 10-chloro-8-hydroxy-11H-indeno[1,2-b]quinolin-11-one, 629 mg (8.5 mmol) of lithium carbonate, 963 mg (5.7 mmol) of 2-diethylaminoethanethiol hydrochloride and 8 ml of N,N-dimethylformamide was stirred for 5 hours with heating at 90° C. After completion of the reaction, the reaction mixture was added to water, and precipitated crystals were collected by filteration. The crystals were recrystallized from ethanol, giving 310 mg of the title compound (yield: 57.7%). The property values are shown in Table 1.

reactant | 10-chloro-8-hydroxy-11H-indeno[1,2-b]quinolin-11-one | 1.4 mmol, 400 mg | ClC1=C2C(=NC=3C=CC(=CC13)O)C1=CC=CC=C1C2=O | C16H8ClNO2
reactant | lithium carbonate | 8.5 mmol, 629 mg | C([O-])([O-])=O.[Li+].[Li+]
reactant | 2-diethylaminoethanethiol hydrochloride | 5.7 mmol, 963 mg | Cl.C(C)N(CCS)CC
reactant | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 10-(((dimethylamino)ethyl)thio)-8-hydroxy-11H-indeno[1,2-b]quinolin-11-one | 310 mg, yield: 57.7% | CN(C)CCSC1=C2C(=NC=3C=CC(=CC13)O)C1=CC=CC=C1C2=O | C20H18N2O2S
